Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.625380422769999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8]=[C:9]([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-3.69145672426
[C:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])=[C:9][H:10].[H:11],5.12072715251
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]1=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.91294068543
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-1.0850160483700002
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][H:3],0.82692917958
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.85775854088
[H:1][O:2][C:3]#[C:4][C:5]([C:6]([H:7])([H:8])[H:9])=[C:10][H:11]>>[H:1][O:2][C@@:3]12[C:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[C:10]2[H:11],0.0729502165505
[H:12].[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.98058813775
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-8.40942690517
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],4.6309425702
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4][C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:3],4.64068368725
[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.06696786206
[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-7.60742167697
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9][H:10],5.38494112879
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.82296984285
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-7.271454644089999
[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-3.97558463127
[H:1][C:2]#[C:3][C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.90304537825
[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.553867464330001
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.7004307992399998
[H:1][C:2]1=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],0.413736431769
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.54667669759
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:11][H:12],3.82302095874
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([H:7])[O:8][H:9],-1.25758344242
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([H:3])/[C:4](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.42898876361
[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-3.95163887973
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:10]([C:8](=[O:7])[H:9])([H:11])[H:12],-2.36577049752
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.37349365241
